US06350892B1
3-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]propanoic Acid, Methyl Ester
A solution of methyl 3-[4-hydroxyphenyl)propionate (30.0 g, 0.166 mol), 2,2′-thiodiethanol (61.0 g, 0.50 mol) and triphenylphosphine (48.0 g, 0.183 mol) in dry benzene (450 ml) was treated at 22° C. with diethyl azodicarboxylate (33.2 g, 0.19 mol) added dropwise over 10 min and the resulting mixutre was stirred at 22° C. for 5 h. The reaction mixture was then diluted with ether (300 ml) washed with water, saturated sodium bicarbonate and brine. After drying (magnesium sulfate) the solvent was evaporated in vacuo and the residue was chromatographed on silica gel (elution toluene-ethyl acetate 85:15) to give 37.64 g (79%) of the starting material as a white solid: mp 47-48° C.

reactant | methyl 3-[4-hydroxyphenyl)propionate | 0.166 mol, 30.0 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | 2,2′-thiodiethanol | 0.50 mol, 61.0 g | S(CCO)CCO | C4H10O2S
reactant | triphenylphosphine | 0.183 mol, 48.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.19 mol, 33.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 450 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 300 ml | CCOCC | C4H10O
product | 3-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]propanoic Acid, Methyl Ester | 37.64 g, 79% | OCCSCCOC1=CC=C(C=C1)CCC(=O)OC | C14H20O4S
